US08747695B2
4) 1,4-Bis(4-n-butylphenylethynyl)naphthalene (1)
The title compound is prepared analogously to Example 3 from 1,4-dibromonaphthalene and two equivalents of 4-n-butylphenylacetylene.

reactant | 1,4-dibromonaphthalene | BrC1=CC=C(C2=CC=CC=C12)Br | C10H6Br2
reactant | 4-n-butylphenylacetylene | two equivalents | C(CCC)C1=CC=C(C=C1)C#C | C12H14
product | 1,4-Bis(4-n-butylphenylethynyl)naphthalene | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(C2=CC=CC=C12)C#CC1=CC=C(C=C1)CCCC | C34H32
